* C:\Users\Gagan\Desktop\summer term\Drone-charging-WPT-Sims\ClassE.asc
* Generated by LTspice 24.1.9 for Windows.
C1 N009 N010 1030p
C2 N010 0 260p
L2 N008 N010 100µ
V1 N008 0 12
V2 N011 0 PULSE(0 10 0 1n 1n .1u .2u)
Lp N009 0 1.59µ
C4 N002 N003 125p
C5 N003 0 100p
L3 N001 N003 100µ
V3 N001 0 12V
V4 N004 0 PULSE(0 10 0 1n 1n .1u .2u)
Lp1 N002 P001 9.18µ
R3 P001 0 28.8
M3 N010 N011 0 0 IRF510
L1 0 P002 1.59µ
C3 N006 P002 637p
M1 N003 N004 0 0 IRF510
C6 N005 0 100n
R1 N005 0 6
L5 N006 N007 19n
D1 N007 N005 MBRS340
C8 N005 N007 53p
.model D D
.lib C:\Users\Gagan\AppData\Local\LTspice\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\Gagan\AppData\Local\LTspice\lib\cmp\standard.mos
.tran 0 250u 50u 1n startup
;tran 0 50u 0 .1n startup
K Lp L1 0.2
* Q=3
* Q=10
.backanno
.end
